US06350749B1
To a mixture of 1-amino-5-(5-chloro-2-fluorophenyl)cyclohexan-3-one (1.33 g), 1,1-dimethoxy-3-butanone (2 ml), toluene (20 ml) and ethanol (9 ml) was added granulated potassium hydroxide (0.4 g) at 110-115° C. while stirring. Just after potassium hydroxide was dissolved, granulated potassium hydroxide (0.3 g) was added to the mixture. With 30 minutes intervals, granulated potassium hydroxide (0.1 g) was added three times to the mixture. To the mixture was added 1,1-dimethoxy-3-butanone (1ml) 2 hours after the reaction had started, and then granulated potassium hydroxide (0.1 g) was added to the mixture. The mixture was stirred for 1 hour under the same conditions. The reaction solution was concentrated under reduced pressure, and to the residue was added water (30 ml) and ethyl acetate (100 ml). The mixture was shaken and the separated upper layer was washed with water. To the mixture was added concentrated hydrochloric acid (0.5 ml). The mixture was concentrated under reduced pressure, and the residue washed with a little amount of ethanol and dried to give 7-(5-chloro-2-fluorophenyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one hydrochloride (1.05 g).

reactant | 1-amino-5-(5-chloro-2-fluorophenyl)cyclohexan-3-one | 1.33 g | NC1CC(CC(C1)C1=C(C=CC(=C1)Cl)F)=O | C12H13ClFNO
reactant | 1,1-dimethoxy-3-butanone | 2 ml | COC(CC(C)=O)OC | C6H12O3
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | potassium hydroxide | 0.4 g | [OH-].[K+]
reactant | potassium hydroxide | 0.3 g | [OH-].[K+]
reactant | potassium hydroxide | 0.1 g | [OH-].[K+]
reactant | 1,1-dimethoxy-3-butanone | 1ml | COC(CC(C)=O)OC | C6H12O3
reactant | potassium hydroxide | 0.1 g | [OH-].[K+]
solvent | ethanol | 9 ml | C(C)O | C2H6O
product | 7-(5-chloro-2-fluorophenyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one hydrochloride | 1.05 g | Cl.ClC=1C=CC(=C(C1)C1CC(C=2C(=CC=NC2C1)C)=O)F | InChI=1S/C16H13ClFNO.ClH/c1-9-4-5-19-14-6-10(7-15(20)16(9)14)12-8-11(17)2-3-13(12)18;/h2-5,8,10H,6-7H2,1H3;1H
